US06440995B1
2-[2-(3,4-Dichloro-phenyl)-7-methoxy-quinolin-4-ylamino]-ethanol hydrochloride
The title compound, m.p. 268-27° C., and MS: m/e=363.0 (M+H+), was prepared from 4-chloro-2-(3,4-dichloro-phenyl)-7-methoxy-quinoline and ethanolamine.

reactant | 4-chloro-2-(3,4-dichloro-phenyl)-7-methoxy-quinoline | ClC1=CC(=NC2=CC(=CC=C12)OC)C1=CC(=C(C=C1)Cl)Cl | C16H10Cl3NO
reactant | ethanolamine | C(O)CN | C2H7NO
product | 2-[2-(3,4-Dichloro-phenyl)-7-methoxy-quinolin-4-ylamino]-ethanol hydrochloride | Cl.ClC=1C=C(C=CC1Cl)C1=NC2=CC(=CC=C2C(=C1)NCCO)OC | InChI=1S/C18H16Cl2N2O2.ClH/c1-24-12-3-4-13-17(21-6-7-23)10-16(22-18(13)9-12)11-2-5-14(19)15(20)8-11;/h2-5,8-10,23H,6-7H2,1H3,(H,21,22);1H
